US07265131B2
To a solution of 4-bromo-2-chloro-phenylamine (4.2 g, 20 mmol), in dioxane (80 mL) was added triethylamine (10 mL, 72 mmol). The pale yellow solution was sparged with nitrogen. During the nitrogen sparge, 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (8.5 mL, 59 mmol) was added dropwise over 10 minutes. After 20 minutes the nitrogen sparge was discontinued and dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct (603 mg, 0.74 mmol) was added. The reaction was then heated to 100° C. in a temperature controlled heating mantle. After stirring for 20 hours at 100° C., HPLC analysis of the reaction showed clean conversion to a product. The reaction was allowed to cool to ambient temperature and diluted with Et2O (250 mL) and H2O (100 mL). The resulting brown biphasic suspension was filtered to remove some solids that had formed. The layers were separated, and the aqueous layer was extracted with Et2O (3×50 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, then filtered and concentrated under reduced pressure to afford a brown oil, which partially solidified after standing at ambient temperature. This crude product was purified by silica gel column chromatography eluting with a gradient from 0% to 20% ethyl acetate/hexane on silica. The product peak was collected to afford 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (2.6 g, 50% yield) as an off-white solid. 1H-NMR (400 MHz, CDCl3): δ 7.69 (1H, d, J=1.3 Hz), 7.49 (1H, dd, J=8.1, 1.3 Hz), 6.72 (1H, d, J=8.1 Hz), 4.25 (2H, br s), 1.31 (12H, s).

reactant | 4-bromo-2-chloro-phenylamine | 20 mmol, 4.2 g | BrC1=CC(=C(C=C1)N)Cl | C6H5BrClN
reactant | triethylamine | 72 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 59 mmol, 8.5 mL | CC1(OBOC1(C)C)C | C6H13BO2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 250 mL | CCOCC | C4H10O
solvent | H2O | 100 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct | 0.74 mmol, 603 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 2.6 g, 50% yield | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N | C12H17BClNO2
